US06124281
(b) Phenyldiazomethane
In an oven-dried round bottom flask was placed benzaldehyde tosylhydrazone (1.15 g, 4.2 mmol), followed by 4.3 mL of a 1.0M solution of sodium methoxide in methanol (2.3 g Na metal dissolved in absolute methanol and diluted to 100 mL). The mixture was swirled until all the contents dissolved. Most of the solvent was removed via romy evaporation and the last traces of solvent by evacuation of the flask under high vacuum for 2 hours. The solid obtained was subjected to a Kugelrohr distillation at 215° C. and 200 millitorr for 1 hour. At 68-70° C., the title compound, as a red oil, was collected in a receiver flask in a quantitative yield.

reactant | benzaldehyde tosylhydrazone | 4.2 mmol, 1.15 g | S(=O)(=O)(C1=CC=C(C)C=C1)NN=CC1=CC=CC=C1 | C14H14N2O2S
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 mL, 2.3 g | CO | CH4O
product | Phenyldiazomethane | quantitative yield | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
